US04880812
A mixture of 1.25 g (4.00 mmol) of 3-[2-(acetylamino)-4-(diacetylamino)-1,6-dihydro-6-oxo-5-pyrimidinyl]propionaldehyde, 0.743 g (4.50 mmol) of ethyl p-aminobenzoate, 1.0 ml of glacial acetic acid, and 3A molecular sieves in 25 ml of methanol was stirred at room temperature for 3 hours under nitrogen before 0.28 g (4.47 mmol) of sodium cyanoborohydride was added during a 2 minute period. After stirring for 17 hours, the mixture was filtered. The filtrate was spin evaporated in vacuo to a yellow foam. The product was separated from a mixture by flash chromatography on Silica Gel 60 (100 g; 230-400 mesh, EM Reagents) with ethyl acetate. Appropriate fractions were combined on the basis of TLC correlation, and solent was removed by spin evaporation in vacuo. Recrystallization from ethyl acetate yielded 0.44 g (24% of theory) of ethyl 4-[3-[2-(acetylamino)-4-(diacetylamino)-1,6-dihydro-6-oxo-5-pyrimidinyl]propylamino]benzoate as a white solid, mp 197°-198°; TLC (ethyl acetate), Rf =0.5; NMR (DMSO-d6) δ 1.28 (t, J=7.1 Hz, 3H, CH3), 1.65 (m, 2H, CCH2C), 2.14 (s, 3H, Ac), 2.2 (m, 2H, CH2Het), 2.23 (s, 6H, 2Ac), 3.05 (m, 2H, CH2N), 4.22 (q, J=7.1 Hz, 2H, CO2CH2), 6.5 (br, 1H, AcNH obscured by Ar), 6.57 (d, 2H, ArH), 7.69 (d, 2H, ArH). Elemental analysis. Calculated for C22H27N5O6, 0.5 H2O (MW 466.49): C, 56.64; H, 6.05; N, 15.01. Found: C, 56.88; H, 6.01; N, 14.88.

reactant | 3-[2-(acetylamino)-4-(diacetylamino)-1,6-dihydro-6-oxo-5-pyrimidinyl]propionaldehyde | 4.00 mmol, 1.25 g | C(C)(=O)NC=1NC(C(=C(N1)N(C(C)=O)C(C)=O)CCC=O)=O | C13H16N4O5
reactant | ethyl p-aminobenzoate | 4.50 mmol, 0.743 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | acetic acid | 1.0 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 4.47 mmol, 0.28 g | C(#N)[BH3-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | ethyl 4-[3-[2-(acetylamino)-4-(diacetylamino)-1,6-dihydro-6-oxo-5-pyrimidinyl]propylamino]benzoate | 0.44 g, 24% | C(C)(=O)NC=1NC(C(=C(N1)N(C(C)=O)C(C)=O)CCCNC1=CC=C(C(=O)OCC)C=C1)=O | C22H27N5O6
